US06235771B1
To a mixture of 3,4-dihydro-2H-1,5-benzodioxepine (8.86 g) and sodium carbonate (9.4 g) in hexane (100 ml) was added dropwise at room temperature a solution of bromine. (3.0 ml) in hexane (30 ml) for 2.5 hours, and the mixture was stirred for 24 hours. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give orange oil. To the obtained oil (13.39 g) in acetic acid (50 ml) was added sodium acetate (4.1 g), and then was added dropwise a solution of bromine (1.3 ml) in acetic acid (25 ml) for 1 hour. The mixture was stirred for 24 hours and concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate/hexane=1:4) to give orange oil of 7-bromo-3,4-dihydro-2H-1,5-benzodioxepine (13.17 g).

reactant | 3,4-dihydro-2H-1,5-benzodioxepine | 8.86 g | O1CCCOC2=C1C=CC=C2 | C9H10O2
reactant | sodium carbonate | 9.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | BrBr | Br2
reactant | sodium acetate | 4.1 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.3 ml | BrBr | Br2
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-bromo-3,4-dihydro-2H-1,5-benzodioxepine | 13.17 g | BrC1=CC2=C(OCCCO2)C=C1 | C9H9BrO2
